US07626021B2
A mixture of 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (3.5 g, 7.7 mmol), 2-trifluoromethoxyphenylboronic acid (2.2 g, 7.7 mmol), dichloro[1,1′bis(diphenyl-phosphino) ferrocene]palladium(II) dichloromethane adduct (284 mg, 0.4 mmol) in THF/Acetonitrile/saturated NaHCO3 (25 ml/25 ml/30 ml) was stirred at 60° C. for 4 hours. The mixture was allowed to cool down to room temperature and then extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to dryness. Silica chromatography of the crude using a gradient of ethyl acetate and hexane afforded 5-bromo-3-(2-trifluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (2.2 g, 59% yield). 1H NMR (500 MHz, DMSO-d6) δ 0.02 (s, 9H), 0.94 (m, 2H), 3.77 (m, 2H), 6.00 (s, 2H), 7.75 (m, 2H), 7.80 (d, 1H), 8.01 (d, 1H), 8.66 (s, 1H), 8.91 (s, 1H). MS: m/z 489.1 (M+H+).

reactant | 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 7.7 mmol, 3.5 g | BrC=1C=C2C(=NC1)N(N=C2I)COCC[Si](C)(C)C | C12H17BrIN3OSi
reactant | 2-trifluoromethoxyphenylboronic acid | 7.7 mmol, 2.2 g | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
solvent | THF Acetonitrile | 25 ml | C1CCOC1.C(C)#N
product | 5-bromo-3-(2-trifluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 2.2 g, 59% yield | BrC=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC(F)(F)F)COCC[Si](C)(C)C | C19H21BrF3N3O2Si
